US05541178
The above nitro compound was reduced by the method described in example 6 for the reduction of allyl 2-methyl-6-nitrobenzoate, except that the solvent was ethanol, to give allyl 2-amino-3-methoxybenzoate.

reactant | allyl 2-methyl-6-nitrobenzoate | CC1=C(C(=O)OCC=C)C(=CC=C1)[N+](=O)[O-] | C11H11NO4
reactant | ethanol | C(C)O | C2H6O
product | allyl 2-amino-3-methoxybenzoate | NC1=C(C(=O)OCC=C)C=CC=C1OC | C11H13NO3
